### PR TITLE
[Merged by Bors] - chore(ModelTheory): golf proofs

### PR DESCRIPTION
**Pull request by euprunin**
This PR removes unused `have`/`haveI`/`let`/`letI` calls.

The goal of this golfing PR is to decrease the number of times lemmas are called explicitly (replacing calls to lemmas with calls to tactics). Any decrease in compilation time is a welcome side effect, although it is not a primary objective.

Trace profiling results (differences <30 ms considered measurement noise):
* `FirstOrder.Field.realize_genericMonicPolyHasRoot`: unchanged 🎉
* `FirstOrder.Language.exists_cg_is_age_of`: unchanged 🎉
* `FirstOrder.Language.Theory.models_formula_iff_onTheory_models_equivSentence`: unchanged 🎉
* `FirstOrder.Language.Sentence.realize_cardGe`: unchanged 🎉
* `FirstOrder.Language.Ultraproduct.boundedFormula_realize_cast`: unchanged 🎉

Profiled using `set_option trace.profiler true in`.

This golfing PR is batched under the following guidelines:
* Up to ~5 changed files per PR
* Up to ~25 changed declarations per PR
* Up to ~100 changed lines per PR

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by euprunin** [comment]
!bench

File: Mathlib/ModelTheory/Fraisse.lean [hunk 1]
```diff
@@ -239,14 +239,8 @@ theorem exists_cg_is_age_of (hn : K.Nonempty)
...
-  -- Porting note: was
-  -- let f : ∀ i j, i ≤ j → G i ↪[L] G j := DirectedSystem.natLeRec fun n => (hP _ n).some
-  let f : ∀ (i j : ℕ), i ≤ j → (G i).val ↪[L] (G j).val := by
-    refine DirectedSystem.natLERec (G' := fun i => (G i).val) (L := L) ?_
-    dsimp only [G]
-    exact fun n => (hP _ n).some
-  have : DirectedSystem (fun n ↦ (G n).val) fun i j h ↦ ↑(f i j h) := by
-    dsimp [f, G]; infer_instance
+  let f : ∀ (i j : ℕ), i ≤ j → (G i).val ↪[L] (G j).val :=
+    DirectedSystem.natLERec (fun n => (hP _ n).some)
```
Comment (vihdzp) [inline Mathlib/ModelTheory/Fraisse.lean]:
```suggestion
    DirectedSystem.natLERec fun n => (hP _ n).some
```

**Review by vihdzp — APPROVED** [review]
LGTM! As with the other PR, you should make clear that you're removing redundant tactics.

File: Mathlib/ModelTheory/Fraisse.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/ModelTheory/Fraisse.lean]: Thanks!

**Review by artie2000 — APPROVED** [review]

**Review by FernandoChu — APPROVED** [review]

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
